US06265415B1
Synthesis of 2,3-dimethyl-8-(2,6-dimethyl-4-fluorobenzylamino)imidazo[1,2-a]pyridine
8-Amino-2,3-dimethylimidazo[1,2-a]pyridine (0.5 g, 3.1 mmol) was dissolved in acetonitrile (6 ml). To the solution were added 2,6-dimethyl-4-fluoro-benzylbromide (0.67 g, 3.1 mmol) and potassium carbonate (0.47 g, 3.4 mmol). The mixture was refluxed for 16 h. Methylene chloride (12 ml) and a sodium chloride solution (20 ml) was added. The organic layer was separated, dried over sodium sulfate and evaporated under reduced pressure. The crude product was purified by chromatography (ethyl acetate:petroleum-ether 1:1). 400 mg of the title compound was obtained as a solid.

reactant | 8-Amino-2,3-dimethylimidazo[1,2-a]pyridine | 3.1 mmol, 0.5 g | NC=1C=2N(C=CC1)C(=C(N2)C)C | C9H11N3
reactant | 2,6-dimethyl-4-fluoro-benzylbromide | 3.1 mmol, 0.67 g | CC1=C(CBr)C(=CC(=C1)F)C | C9H10BrF
reactant | potassium carbonate | 3.4 mmol, 0.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | Methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 2,3-dimethyl-8-(2,6-dimethyl-4-fluorobenzylamino)imidazo[1,2-a]pyridine | 400 mg | CC=1N=C2N(C=CC=C2NCC2=C(C=C(C=C2C)F)C)C1C | C18H20FN3
